US06087380
c) 1-Methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide
6.17 g (0.035 mol) of N-(4-cyanophenyl)glycine and 5.68 g (0.035 mol) of N,N'-carbonyldiimidazole were refluxed in 300 ml of tetrahydrofuran for 30 minutes, then 10.6 g (0.032 mol) of 3-amino-4-methylamino-benzoic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide were added and the mixture was refluxed for a further five hours. Then the solvent was distilled off in vacuo, the residue was dissolved in 150 ml of glacial acetic acid and refluxed for one hour. Then the glacial acetic acid was distilled off in vacuo, the residue was dissolved in about 300 ml of dichloromethane, the solution was washed twice with about 150 ml water and then dried over sodium sulphate. After evaporation of the solvent the crude product thus obtained was purified by column chromatography (800 g silica gel; eluant: dichloromethane with 1-2% ethanol). Yield: 8.5 g (57% of theory), Rf value: 0.51 (silica gel; dichloromethane/ethanol=19:1)

reactant | N-(4-cyanophenyl)glycine | 0.035 mol, 6.17 g | C(#N)C1=CC=C(C=C1)NCC(=O)O | C9H8N2O2
reactant | 3-amino-4-methylamino-benzoic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | 0.032 mol, 10.6 g | C1(=CC=CC=C1)N(C(C1=CC(=C(C=C1)NC)N)=O)CCC(=O)OCC | C19H23N3O3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-Methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C28H27N5O3
